US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and (5-bromo-pyridin-2-yl)-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone (70 mg) obtained in the same manner as Step A in Example 1-D-79 instead of 4-bromobenzoic acid methyl ester in Example 1-D-08, in the same manner as Example 1-D-08, a crude product of [5-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-pyridin-2-yl]-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone was obtained, and then the PMB groups were removed according to Deprotection method 1, to obtain the desired compound (D-117) as a yellow powder (23 mg, 23%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | (5-bromo-pyridin-2-yl)-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone | 70 mg | BrC=1C=CC(=NC1)C(=O)N1CCN(CC1)CCO | C12H16BrN3O2
reactant | 4-bromobenzoic acid methyl ester | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
product | [5-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-pyridin-2-yl]-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-methanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C=CC(=NC3)C(=O)N3CCN(CC3)CCO)CC3=CC=C(C=C3)OC)C=C1 | C42H48N10O5
